US05034404
A mixture of 70.3g of 2-chloro-5-(hydroxymethyl) pyridine and 50ml of 1,2-dichloroethane was dropwise added to a mixture of 87.4g of thionyl chloride and 100ml of 1,2-dichloroethane during 30 minutes in a water bath of 5-20° C. The mixture was stirred for an hour and a half at room temperature and for 4 hours and a half under refluxing. After concentrating, to the residue were added 200ml of chloroform and 60ml of water and then added portionwise 20g of sodium hydrogen carbonate under stirring. The organic phase was separated, treated with active carbon and concentrated to obtain 75.9g of 2-chloro-5-(chloromethyl)pyridine as a yellowish brown solid.

reactant | 2-chloro-5-(hydroxymethyl) pyridine | 70.3g | ClC1=NC=C(C=C1)CO | C6H6ClNO
reactant | thionyl chloride | 87.4g | S(=O)(Cl)Cl | Cl2OS
solvent | 1,2-dichloroethane | 100ml | ClCCCl | C2H4Cl2
solvent | 1,2-dichloroethane | 50ml | ClCCCl | C2H4Cl2
product | 2-chloro-5-(chloromethyl)pyridine | 75.9g | ClC1=NC=C(C=C1)CCl | C6H5Cl2N
